data/mechanism_extracts/JOC/10.1021_acs.joc.4c00722.json
{"doi": "10.1021_acs.joc.4c00722", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical fluorosulfonylation of styrenes with sodium arylsulfinates and Et3N·3HF to give β-fluorosulfones via radical-polar crossover", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of sodium arylsulfinate (2a) to a sulfonyl radical; subsequent anodic oxidation of the benzylic radical adduct to a benzylic cation; cathodic reduction of protons generates H2 (obviating chemical oxidant)", "key_intermediates": [{"name": "arylsulfonyl radical (I)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical from sulfonyl addition to styrene (II)", "smiles": null, "role": "reactive"}, {"name": "benzylic cation (III)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes ArSO2Na (2a) to sulfonyl radical I, which adds to the styrene to give benzylic radical II; a second anodic oxidation forms benzylic cation III, which is trapped by fluoride from Et3N·3HF to deliver the β-fluorosulfone 3. Protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "weak", "notes": "Mechanism is proposed primarily on the basis of CV showing low oxidation potential of sulfinate 2a (oxidized first) and analogy to literature precedents; no radical-trap (TEMPO/BHT), KIE, or DFT experiments are reported on this page. The same paradigm is extended to fluorothiocyanation (with NH4SCN) and to vinylsulfonylation (with stainless-steel cathode)."}
